US09428510B2
5-(3,5-dichlorophenylthio)-1H-pyrazolo[4,3-b]pyridin-3-amine
A solution of 350 mg of NaNO2 (5.07 mmol) in water (2 ml) is added to a stirring solution of 1.5 g of 3-amino-6-(3,5-dichlorophenylthio)picolinonitrile (5.07 mmol) in 100 ml of 50% sulfuric acid at 0° C. The mixture is stirred for 20 minutes at 0-5° C. A solution of 2.9 g of SnCl2.2H2O (12.7 mmol, 2.5 eq) in hydrochloric acid (12 N solution, 10 ml) is then added and the solution is stirred for 1 hour at room temperature. The solid formed is filtered and then washed twice with 20 ml of water. The solid is suspended in 100 ml and the pH is adjusted to 10 by adding 30% soda solution. The organic phase is separated and then dried on anhydrous sodium sulfate before being concentrated under vacuum. A light yellow solid is obtained after recrystallization in ethyl acetate (470 mg, 34%).

reactant | NaNO2 | 5.07 mmol, 350 mg | N(=O)[O-].[Na+]
reactant | 3-amino-6-(3,5-dichlorophenylthio)picolinonitrile | 5.07 mmol, 1.5 g | NC=1C(=NC(=CC1)SC1=CC(=CC(=C1)Cl)Cl)C#N | C12H7Cl2N3S
reactant | SnCl2.2H2O | 12.7 mmol, 2.9 g, 2.5 eq | O.O.Cl[Sn]Cl
solvent | water | 2 ml | O | H2O
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | hydrochloric acid | 12 N, 10 ml | Cl | ClH
product | 5-(3,5-dichlorophenylthio)-1H-pyrazolo[4,3-b]pyridin-3-amine | ClC=1C=C(C=C(C1)Cl)SC1=CC=C2C(=N1)C(=NN2)N | C12H8Cl2N4S
